US04362728
A mixture of 4-[2-(2,2,2-trifluoroethyl)-guanidino]-2-(2-phthalimidoethylthio)pyrimidine (0.6 g.) ethanol (20 ml.) and 99% hydrazine hydrate (0.5 ml.) was heated under reflux for 1 hour and then evaporated to dryness. The residue was stirred with N hydrochloric acid and the mixture filtered. The filtrate was basified with 17 N NaOH and the mixture extracted three times with ether. The combined ether extracts were dried and then evaporated to dryness to give 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-(2-aminoethylthio)pyrimidine (0.25 g.) which was used without further purification.

reactant | 4-[2-(2,2,2-trifluoroethyl)-guanidino]-2-(2-phthalimidoethylthio)pyrimidine | 0.6 g | FC(CN=C(NC1=NC(=NC=C1)SCCN1C(C=2C(C1=O)=CC=CC2)=O)N)(F)F | C17H15F3N6O2S
reactant | hydrazine hydrate | 0.5 ml | O.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-(2-aminoethylthio)pyrimidine | 0.25 g | FC(CN=C(NC1=NC(=NC=C1)SCCN)N)(F)F | C9H13F3N6S
